US06562828B1
4-[4-(1,2,3,4-Tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridine-3-carboxylic Acid Methyl Ester
To a solution of 7-[1-(3-methoxycarbonylpyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (37 mg) in chloroform (0.5 ml) was added trifluoroacetic acid (0.15 ml), and the mixture was stirred at room temperature for 1 hour. After completion of the reaction, the solvent was evaporated. To the obtained residue was added aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and dried under reduced pressure to give the title compound (30 mg).

reactant | 7-[1-(3-methoxycarbonylpyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 37 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=C(C=NC=C1)C(=O)OC | C27H35N3O5
reactant | trifluoroacetic acid | 0.15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(1,2,3,4-Tetrahydroisoquinolin-7-yloxymethyl)piperidin-1-yl]pyridine-3-carboxylic Acid Methyl Ester | 30 mg | COC(=O)C=1C=NC=CC1N1CCC(CC1)COC1=CC=C2CCNCC2=C1 | C22H27N3O3
